Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Syncope, tooth/gum pain, facial swelling, fever
 
Major Surgical or Invasive Procedure:
Apical Abscess Incision and Drainage in ER

 
History of Present Illness:
Mr. ___ is a ___ with no significant PMH apart from poor
dentition with upper/lower partial dentures, who presented with
complaint of syncope.

He tells me he was feeling fine, usual state of good health,
until this past ___ when he began to notice a toothache in
one of his upper left teeth. Pain was intermittent, and he 
didn't
think too much of it, until ___ when he began to notice
increasing pain, swelling of his adjacent gum, and a vague sense
of fever. He tried to go about his day, helped his wife move 
some
things from the house to the back shed, but when he went to
urinate before taking a break he syncopized. He remembers just
starting his stream, and the next thing he remembers is his wife
reviving him from the ground. It is unclear if he had 
headstrike.
His wife called EMS.

He was brought to the ED, where vitals were stable. He was
thought to have orthostatic hypotension and was given fluids. He
was found to have an apical abscess and the ED physician did ___
bedside I&D and started him on penicillin. He improved initially
but had another near-syncopal event with hypotension, so was
placed in observation with telemetry, given additional IVF, and
planned for echocardiogram. He subsequently spiked a high grade
fever with tachycardia, with maxillofacial CT showing likely
facial cellulitis with periapical lucency but no definite
abscess. He was given additional IVF and transitioned to Unasyn.
Admission was then requested.

He currently feels much improved. He says his facial swelling is
much improved.

REVIEW OF SYSTEMS
A full 10 point review of systems was performed and is otherwise
negative except as noted above.

 
Past Medical History:
PAST MEDICAL AND SURGICAL HISTORY
Denies history of medical problems or surgeries

MEDICATIONS
He takes an over the counter multivitamin but no prescription
medications

 
Social History:
___
Family History:
FAMILY HISTORY
Family history was reviewed and is thought impertinent to 
current
presentation. He denies family history of medical problems.

 
Physical Exam:
Admission Physical Exam FindingsVitals: 99.2 122 / 68 78 18 96 
RA 
Gen: NAD, sitting up in bed. Very pleasant.
Eyes: EOMI, sclerae anicteric  
HENT: NCAT, MMM, hearing adequate; left facial swelling, left
maxillary gum is red and swollen, my exam is somewhat limited 
but
I do not see purulence. Palate is normal appearing at this time.
I do not see edema at the back of the mouth.
Cardiovasc: irregular, no obvious MRG. Full pulses, no edema.
Resp: normal effort, breathing unlabored, no accessory muscle
use, lungs CTA ___ without adventitious sounds.
GI: Soft, NT, ND, BS+. No HSM.
MSK: No significant kyphosis. No palpable synovitis.
Skin: No visible rash. No jaundice.
Neuro: AAOx3. Apparent left facial droop is likely due to edema.
He is able to close his eyes tightly, and able to bring up the
angle of his mouth but it is somewhat limited by pain and
swelling.
Psych: Full range of affect. Thought linear.
GU: No foley
_________________________________________

Discharge Date Physical Examination
Vitals reviewed; afebrile, hemodynamically stable
Gen: cooperative, engaged/alert, no distress
Psych: appropriate affect/response without delirium
Neuro: nonfocal examination, CN II-XII intact
EENT: EOMI, PERRLA, sclera anicteric, without conjunctival 
pallor; moist oral mucosal membranes; poor dentition with left 
maxillary gum red and swollen, negative for obvious purulent 
drainage; negative for posterior oropharyngeal erythema; facial 
swelling decreasing significantly 
CV: RRR s1/s2 
Pulm: clear bilaterally , normal depth/effort
Abd: soft nt/nd bowel sounds present
Ext: no c/c/e
Skin: warm, dry without rashes

 
Pertinent Results:
___ 10:20AM   GLUCOSE-117* UREA N-9 CREAT-1.0 SODIUM-141 
POTASSIUM-4.6 CHLORIDE-101 TOTAL CO2-26 ANION GAP-14
___ 10:20AM   WBC-9.5 RBC-4.98 HGB-14.5 HCT-43.4 MCV-87 
MCH-29.1 MCHC-33.4 RDW-13.0 RDWSD-41.4
___ 10:20AM   NEUTS-88.2* LYMPHS-8.9* MONOS-2.1* EOS-0.2* 
BASOS-0.1 IM ___ AbsNeut-8.33*# AbsLymp-0.84* AbsMono-0.20 
AbsEos-0.02* AbsBaso-0.01
___ 10:20AM   PLT COUNT-176
___ 10:20AM   ___ TO  PTT-UNABLE TO  ___ 
TO 
___ 08:56AM   VoidSpec-SPECIMEN R
___ 08:56AM   WBC-6.6 RBC-4.90 HGB-14.2 HCT-42.9 MCV-88 
MCH-29.0 MCHC-33.1 RDW-13.2 RDWSD-41.9
___ 08:56AM   NEUTS-58.1 ___ MONOS-8.5 EOS-1.1 
BASOS-0.3 IM ___ AbsNeut-3.85 AbsLymp-2.10 AbsMono-0.56 
AbsEos-0.07 AbsBaso-0.02
___ 08:56AM   PLT COUNT-195
___ 08:56AM   ___ PTT-25.6 ___

 
Brief Hospital Course:
This is a ___ with no significant PMH apart from poor dentition 
with upper/lower partial dentures, who presented with complaint 
of syncope, found to have odontogenic infection with facial 
cellulitis and possible lingular pneumonia on CXR. Had apical 
abscess drained in ER by way of incision and drainage.

Sepsis due to:
     1) Odontogenic infection s/p apical abscess drainage with 
purulence
     2) Facial cellulitis
     3) Lingular pneumonia
On presentation he met SIRS criteria with fever, mild 
leukocytosis with left shift, tachycardia with clear source of 
infection. Suspected sources on admission were that of 
odontogenic infectious process with abscess, lingular pneumonia, 
and facial cellulitis (likely associated with underlying dental 
infection). Antimicrobial coverage initiated with Unasyn; 
selected for broad spectrum coverage based on suspected primary 
sources. He demonstrated clinical responsiveness and
improvement evidenced by downtrending fever curve, reduction in 
swelling, and appropriate reduction in leukocytosis. Imaging 
studies revealing for periapical lucency and adjacent soft 
tissue changes that could easily transform to abscess. For this 
it was planned to pursue Panorex for further evaluation and 
intent to consult with ___ as an inpatient; however Panorex was 
inoperable and imaging could not be obtained. Case discussed 
with ___ for guidance on management and disposition planning. 
Recommended for transition and continuation with PO 
antimicrobial therapy. Advised for patient to directly contact 
___ clinic at ___ (___) to schedule 
same day appointment for Panorex and coordinate for tooth 
extraction as an outpatient. The patient will be discharged with 
plan to continue and complete course of therapy with Augmentin. 
Planned course is for 14 days as 1 bottle of BCx yielded growth 
with preliminary identification of gram-positive cocci in pairs 
and chains.

Syncope, orthostasis secondary to sepsis
- Negative for recurrence of interval development of symptoms of 
chest pressure, palpitations, lightheadedness during his 
hospital course. ECG without ischemic changes. Telemetry 
incidentally notable for PVCs however asymptomatic and with 
unclear significance; reassuringly diminished and did not recur 
after first hospital day. Review of telemetry was otherwise 
unrevealing for paroxysmal malignant arrhythmia.

3+ TR on echocardiogram
- Echocardiogtram revealing for 3+TRHe does not have a PCP nor 
health insurance. He requires further evaluation and interval 
___ to assess for progression.

Transitional Concerns:
The patient does not currently have a PCP to ___ with. 
Advised him to seek out and establish care with a PCP in order 
to ___ on his condition and assess him for additional 
chronic medical needs. 

Pertinent Diagnostic Studies During Hospitalization

LABORATORY STUDIES
___ 05:04AM BLOOD WBC: 5.1 RBC: 4.11* Hgb: 12.0* Hct: 35.6*
MCV: 87 MCH: 29.2 MCHC: 33.7 RDW: 13.2 RDWSD: 41.___* 
___ 05:04AM BLOOD Glucose: 112* UreaN: 14 Creat: 0.9 Na: 
140
K: 4.0 Cl: 102 HCO3: 25 AnGap: 13 
___ 05:04AM BLOOD Calcium: 8.4 Phos: 2.8 Mg: 1.8 

MICROBIOLOGY
BCx pending but negative growth to date

CT maxillofacial
Extensive left facial swelling and fat stranding with left
maxillary periapical lucency and adjacent soft tissue asymmetry
without evidence of definite abscess formation. 

TTE
The left atrium is normal in size. Left ventricular wall
thickness, cavity size and regional/global systolic function are
normal (LVEF = 60%). Tissue Doppler imaging suggests a normal
left ventricular filling pressure (PCWP<12mmHg). There is no 
left
ventricular outflow obstruction at rest or with Valsalva. Right
ventricular chamber size and free wall motion are normal. The
ascending aorta is mildly dilated. The aortic valve leaflets (3)
appear structurally normal with good leaflet excursion and no
aortic stenosis or aortic regurgitation. The mitral valve
leaflets are mildly thickened. A late systolic jet of mild (1+)
mitral regurgitation is seen. The tricuspid valve leaflets are
mildly thickened. Tricuspid valve prolapse is present. Moderate
to severe [3+] tricuspid regurgitation is seen. [In the setting
of at least moderate to severe tricuspid regurgitation, the
estimated pulmonary artery systolic pressure may be
underestimated due to a very high right atrial pressure.] There
is no pericardial effusion.  

EKG: NSR, no STTW changes consistent with ischemia
 
Medications on Admission:
No prescription medications on Admission
 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q6H:PRN Pain - Mild/Fever 
RX *acetaminophen [Acetaminophen Extra Strength] 500 mg 1 
tablet(s) by mouth every six (6) hours Disp #*60 Tablet 
Refills:*0 
2.  Amoxicillin-Clavulanic Acid ___ mg PO/NG Q12H Duration: 14 
Days 
14 day course of therapy 
RX *amoxicillin-pot clavulanate [Augmentin] 875 mg-125 mg 1 
tablet(s) by mouth twice daily Disp #*28 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Sepsis due to: odontogenic infection with apical abscess, facial 
cellulitis, lingular pneumonia.

Syncope due to orthostasis

Tricuspid Regurgitation found on echocardiogram

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You are being discharged home with oral antibiotics. Please 
continue and complete course of therapy. Augmentin twice daily 
for the next ___ days.

Please call and schedule a same-day appointment with ___ Oral 
Surgery Clinic. On ___ morning at 7am, please call 
___ to request for a same day appointment in order to: 
have a Panorex film of the oral cavity and coordinate with Oral 
Maxillofacial Surgery if dental extraction is determined to be 
necessary.

 
Followup Instructions:
___